US04335126
(±)-1-[3-(3,4,5-Trimethoxyphenoxy)-2-hydroxy-propyl]-4-(2-aminophenyl)-piperazine
6 g (0124 mole) (±)-1-[3-(3,4,5-trimethoxyphenoxy)-2-hydroxy-propyl]-4-(2-nitro-phenyl)-piperazine are dissolved in 300 ml of methanol and hydrogenated in the presence of 0.5 g Pd-carbon (10%) at room temperature. After filtering off the catalyst and removal of the solvent in vacuo it is recrystallized from ethanol. Yield: 94%. M.p. of the monohydrochloride: 181°-183° C.

reactant | (±)-1-[3-(3,4,5-trimethoxyphenoxy)-2-hydroxy-propyl]-4-(2-nitro-phenyl)-piperazine | 6 g | COC=1C=C(OCC(CN2CCN(CC2)C2=C(C=CC=C2)[N+](=O)[O-])O)C=C(C1OC)OC | C22H29N3O7
solvent | methanol | 300 ml | CO | CH4O
catalyst | Pd carbon | 0.5 g | [Pd].[C]
product | (±)-1-[3-(3,4,5-Trimethoxyphenoxy)-2-hydroxy-propyl]-4-(2-aminophenyl)-piperazine | Yield: 94% | COC=1C=C(OCC(CN2CCN(CC2)C2=C(C=CC=C2)N)O)C=C(C1OC)OC | C22H31N3O5
